* D:\rafaellmario\documents\LTspice\06_matlab_integration\active_filter.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N004 N001 {RS2}
R2 N001 v1 {RS1}
C1 N004 0 {CS1}
C2 v2 N001 {CS2}
R3 N007 0 {RS3}
R4 v2 N007 {RS4}
R5 v1 N005 {Rin}
R6 N003 vin {Rin}
C3 N003 0 {Cin}
V1 vin 0 AC 1.
V2 +VS 0 {VS}
V3 0 -VS {VS}
R7 N002 v2 {RS2}
R8 N006 N002 {RS5}
R9 vout N008 {RS4}
R10 0 N008 {RS3}
C4 vout N002 {CS2}
C5 0 N006 {CS1}
X§U2 N003 N005 +VS -VS v1 TL084 ;§pnba In+)In-)V+)V-)OUT
X§U1 N004 N007 +vs -vs v2 TL084 ;§pnba In+)In-)V+)V-)OUT
X§U3 N006 N008 +VS -VS vout TL084 ;§pnba In+)In-)V+)V-)OUT
.param VS = 15
.param RS1 = 11.7k RS2 = 14k RS3 = 2.49k RS4 = 5.36k RS5 = 5.17k
.param CS1 = 10n CS2 = 15n
.param Rin = 16k Cin = 10n
.ac dec 100 1 100k
.inc TL084.txt
.backanno
.end
